US06060508
300 mg (7.87 mmol) of lithium aluminium hydride and 10 ml of anhydrous tetrahydrofuran are introduced into a 100 ml round-bottomed flask. This suspension is cooled to 0° C. by an ice bath and a solution of 1 g (3.15 mmol) of ethyl 2-(2-ethyl-3-methylbenzofuran-7-yl)-2-(diethylamino)acetate in 20 ml of tetrahydrofuran is added dropwise. The reaction mixture is stirred for 1 hour at room temperature and then hydrolysed by the successive addition of 0.3 ml of water, 0.3 ml of a 15% sodium hydroxide solution and 0.9 ml of water. A white precipitate is formed which is filtered off and washed with 50 ml of ether. The filtrate is washed with 50 ml of water, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a silica column (elution solvent: 2% methanol in dichloromethane). 0.83 g (Yield: 96%) of 2-ethyl-3-methyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran is obtained in the form of a yellow oil.

reactant | lithium aluminium hydride | 7.87 mmol, 300 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(2-ethyl-3-methylbenzofuran-7-yl)-2-(diethylamino)acetate | 3.15 mmol, 1 g | C(C)C=1OC2=C(C1C)C=CC=C2C(C(=O)OCC)N(CC)CC | C19H27NO3
reactant | water | 0.3 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.9 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-ethyl-3-methyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran | 0.83 g, Yield: 96% | C(C)C=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | C17H25NO2
